US05547949
Preparation of 21-{4-[2,4-bis(1,1-dimethylethylamino)-6-pyrimidinyl]-1-piperazinyl}-16α-methylpregna-1,4,9(11) -triene-3,20-dione
After adding 1.40 g (4.57 moles) of 2,4-bis(1,1-dimethylethylamino)-6-(1-piperazinyl}pyrimidine and 0.63 g of potassium carbonate to a solution containing 2.00 g (3.805 mmoles) of 21-(4-nitrobenzenesulfonyloxy)-16α-methylpregna-1,4,9(11)-triene-3,20-dione in 100 ml of acetone, the reaction mixture is boiled under reflux for 8.5 hours, then evaporated. The residue is distributed between 40 ml of chloroform and 10 ml of water. The chloroform layer is dried and evaporated. The residue is purified on a silica gel column by using a 98:2 mixture of chloroform/methanol as eluent. After recrystallization the title compound is obtained in a yield of 1.53 g (64%), m.p.:145°-155° C.

reactant | 2,4-bis(1,1-dimethylethylamino)-6-(1-piperazinyl}pyrimidine | 4.57 moles, 1.40 g | CC(C)(C)NC1=NC(=CC(=N1)NC(C)(C)C)N1CCNCC1 | C16H30N6
reactant | potassium carbonate | 0.63 g | C([O-])([O-])=O.[K+].[K+]
reactant | 21-(4-nitrobenzenesulfonyloxy)-16α-methylpregna-1,4,9(11)-triene-3,20-dione | 3.805 mmoles, 2.00 g | [N+](=O)([O-])C1=CC=C(C=C1)S(=O)(=O)OCC([C@H]1[C@@H](C[C@H]2[C@@H]3CCC4=CC(C=C[C@]4(C)C3=CC[C@]12C)=O)C)=O | C28H31NO7S
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | 21-{4-[2,4-bis(1,1-dimethylethylamino)-6-pyrimidinyl]-1-piperazinyl}-16α-methylpregna-1,4,9(11) -triene-3,20-dione | CC(C)(C)NC1=NC(=CC(=N1)NC(C)(C)C)N1CCN(CC1)CC([C@H]1[C@@H](C[C@H]2[C@@H]3CCC4=CC(C=C[C@]4(C)C3=CC[C@]12C)=O)C)=O | C38H56N6O2
